US04622418
2,2,5,5-Tetramethyl-1-cyclopentanol is added to a dry flask under argon at 0° C. Dry tetrahydrofuran is added with a syringe. Sodium hydride (60% dispersion in oil) is added quickly in one portion and the contents of the flask are stirred for one hour at room temperature. A 10 mM solution of 18-crown-6- ether in acetonitrile is added with a syringe and the flask cooled to 0° C. A tetrahydrofuran solution of N-Boc-1-amino-1-hydroxymethylcyclopropane mesylate is added with vigorous stirring over a 10 minute period. After completion of the reaction, as judged by thin layer chromatography, it is quenched with dimethyl sulfate, poured into saturated ammonium chloride and extracted with ethyl acetate. The organic layer is dried over MgSO4 and evaporated to yield N-Boc-O-(2,2,5,5-tetramethyl-1-cyclopentyl)-1-amino-1-hydroxymethylcyclopropane.

reactant | 2,2,5,5-Tetramethyl-1-cyclopentanol | CC1(C(C(CC1)(C)C)O)C | C9H18O
reactant | Sodium hydride | [H-].[Na+]
reactant | 18-crown-6 ether | C1COCCOCCOCCOCCOCCO1.CCOCC
reactant | N-Boc-1-amino-1-hydroxymethylcyclopropane mesylate | S(C)(=O)(=O)O.C(=O)(OC(C)(C)C)NC1(CC1)CO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Boc-O-(2,2,5,5-tetramethyl-1-cyclopentyl)-1-amino-1-hydroxymethylcyclopropane | C(=O)(OC(C)(C)C)NC1(CC1)COC1C(CCC1(C)C)(C)C | C18H33NO3
